US08071586B2
C) (rac)-4-(1-Methoxycarbonyl-3-oxo-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester
To a solution of 0.31 ml (3.60 mmol) of oxalyl chloride in 7.7 ml dichloromethane at −50 to −60° C. was added a solution of 0.53 ml (7.51 mmol) dimethylsulfoxide in 1.6 ml of dichloromethane within 10 min. The solution was stirred for 5 min and a solution of 1.14 (3.13 mmol) (rac)-4-(3-hydroxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester in 6.8 ml dichloromethane was added within 10 min. The mixture was stirred for 15 min and 2.18 ml (15.64 mmol) of triethylamine were added within 20 min. The suspension was stirred for 1¼ h and slowly warmed to 0° C. The reaction was neutralized with cold 10% aq. potassium dihydrogenphosphate solution (adjusted with 10% aq. potassium hydrogensulfate solution to pH 4-5) and extracted with diethyl ether (3×). The organic phases were washed with 10% aq. potassium dihydrogenphosphate solution, sat. aq. sodium hydrogencarbonate solution, 10% aq. sodium chloride solution, dried over Na2SO4 evaporated to yield 1.25 g (quantitative) of the title compound as yellow oil. MS: 363.2 (MH+).

reactant | oxalyl chloride | 3.60 mmol, 0.31 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 7.51 mmol, 0.53 ml | CS(=O)C | C2H6OS
reactant | (rac)-4-(3-hydroxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)C(CCO)C(=O)OC | C18H24N2O6
reactant | triethylamine | 15.64 mmol, 2.18 ml | C(C)N(CC)CC | C6H15N
reactant | potassium dihydrogenphosphate | pH 4-5 | P(=O)(O)(O)[O-].[K+]
solvent | dichloromethane | 7.7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.8 ml | ClCCl | CH2Cl2
product | (rac)-4-(1-Methoxycarbonyl-3-oxo-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)C(CC=O)C(=O)OC | C18H22N2O6
